US09227975B2
Preparation of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine
To a mixture of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine (4.17 g, 12.1 mmol) and SnCl2 dihydrate (10.9 g, 48.4 mmol) in a flask was added 200 mL EtOH to form a suspension. The reaction was heated at 70° C. for 1 hour to reach completion. After cooling to ambient temperature, the reaction mixture was concentrated. Water (200 mL) was added to the resulting crude solid residue, and the mixture was briefly sonicated and then vacuum-filtered. The filtrate pH was neutralized with 6N NaOH solution and extracted with DCM (3×250 mL). The combined organic layers were washed with brine (200 mL), dried over Na2SO4, and concentrated to yield the crude product as a yellowish foamy solid. The crude material was purified by C-18 reverse-phase column chromatography (eluent=5 to 60% acetonitrile/water) to provide the pure product as a light yellowish powder (3 g, 78% yield).

reactant | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine | 12.1 mmol, 4.17 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H13F2N5O2
solvent | EtOH | 200 mL | CCO | C2H6O
product | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 3 g, 78% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)N | C16H15F2N5
